US07538243B2
3,3-Dimethyl-2-methylene-indan-1-one
Diethylamine (8.76 g, 0.12 mol) was cooled to 0° C. and 62.5% aq. H2SO4 was added slowly. Aqueous formaldehyde solution (36.5%, 9.86 g, 0.12 mol) was added, followed by dimethylindanone (16.0 g, 0.10 mol). The mixture was heated to 110° C. for 5.5 h. Aqueous workup yielded a ca. 1:1 mixture of starting material and product which was separated by FC on SiO2 to yield the product as a colourless oil (2.73 g, 13%).

reactant | Diethylamine | 0.12 mol, 8.76 g | C(C)NCC | C4H11N
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | formaldehyde | 0.12 mol, 9.86 g | C=O | CH2O
reactant | dimethylindanone | 0.10 mol, 16.0 g | CC1(C(C2=CC=CC=C2C1)=O)C | C11H12O
product | 3,3-Dimethyl-2-methylene-indan-1-one | 2.73 g, 13% | CC1(C(C(C2=CC=CC=C12)=O)=C)C | C12H12O
